US09388161B2
1,2-Dibromoethane (0.084 mL, 0.97 mmol) was added to a mixture of zinc powder (0.520 g, 8.13 mmol) in tetrahydrofuran (2 mL), and the resulting mixture was stirred for 10 min at 80° C. and was then cooled to room temperature. A solution of chlorotrimethylsilane (0.115 mL, 1.22 mmol) in tetrahydrofuran (1 mL) was added dropwise with stirring, and the resulting mixture stirred for 45 min at room temperature. A solution of tert-butyl 3-iodoazetidine-1-carboxylate (1.74 g, 6.15 mmol) in tetrahydrofuran (2 mL) was added, and the resulting mixture stirred for 2 h at room temperature. A solution of 2,4-dibromothiazole (0.744 g, 3.09 mmol) in tetrahydrofuran (1 mL) and tetrakis(triphenylphosphine)palladium(O) (0.354 g, 0.31 mmol) were added, and the resulting mixture stirred overnight at room temperature. The reaction mixture was poured into water (10 mL) and extracted with ethyl acetate (3×10 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 1:2, ethyl acetate/petroleum ether) to afford tert-butyl 3-(4-bromothiazol-2-yl)azetidine-1-carboxylate (0.151 g, 8%) of as yellow oil. MS (ESI, pos. ion) m/z 319, 321 [M+H]+.

reactant | 1,2-Dibromoethane | 0.97 mmol, 0.084 mL | BrCCBr | C2H4Br2
reactant | chlorotrimethylsilane | 1.22 mmol, 0.115 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | tert-butyl 3-iodoazetidine-1-carboxylate | 6.15 mmol, 1.74 g | IC1CN(C1)C(=O)OC(C)(C)C | C8H14INO2
reactant | 2,4-dibromothiazole | 3.09 mmol, 0.744 g | BrC=1SC=C(N1)Br | C3HBr2NS
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | zinc | 8.13 mmol, 0.520 g | [Zn] | Zn
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.31 mmol, 0.354 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | water | 10 mL | O | H2O
product | tert-butyl 3-(4-bromothiazol-2-yl)azetidine-1-carboxylate | 0.151 g, 8% | BrC=1N=C(SC1)C1CN(C1)C(=O)OC(C)(C)C | C11H15BrN2O2S
